US06162818
To a solution of 6-amino-7-methylindole (1.0 g, 6.84 mmol) in methylene chloride (50 mL) is added di-2-pyridyl thionocarbonate (1.59 g, 6.84 mmol). The resulting solution is stirred at room temperature for two hours followed by removal of the methylene chloride by rotary evaporation. The crude material is purified via silica gel column chromatography using 10% ethyl acetate/hexane as the eluting solvent. The product containing fractions are combined and the solvents removed by rotary evaporation to yield 0.90 g of 6-isothiocyanato-7-methylindole as a white solid (70% yield).

reactant | 6-amino-7-methylindole | 6.84 mmol, 1.0 g | NC1=CC=C2C=CNC2=C1C | C9H10N2
reactant | di-2-pyridyl thionocarbonate | 6.84 mmol, 1.59 g | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 6-isothiocyanato-7-methylindole | 0.90 g, 70% yield | N(=C=S)C1=CC=C2C=CNC2=C1C | C10H8N2S
